US07495014B2
N-[4-Bromo-2-(3-fluoro-pyridin-2-yl)-6-nitro-phenyl]-2,2-dimethyl-propionamide:
To a suspension of N-[4-bromo-2-(3-fluoro-pyridin-2-yl)-phenyl]-2,2-dimethyl-propionamide (6.45 grams, 18.4 mmoles) in TFA (100 mL) and TFAA (25.5 mL, 183.6 mmole), at 0° C., was added a TFA solution (30 mL) of 90% fuming nitric acid (2.46 mL, 55.1 mmoles) over a 45 minute period. The mixture was then stirred at 0° C. for a total of 4 hours. The crude reaction (now homogenous) was poured into ice producing a pasty mass. The mixture was diluted to 500 mL total volume with water, treated with 50 mL of methanol, and vigorously stirred for 12 hours. The resulting solids were filtered, washed with copious amounts of water, then dried in vacuo at 50° C. to afford the title compound (6.1 grams, 82% yield) as a tan powder.

reactant | N-[4-bromo-2-(3-fluoro-pyridin-2-yl)-phenyl]-2,2-dimethyl-propionamide | 18.4 mmoles, 6.45 grams | BrC1=CC(=C(C=C1)NC(C(C)(C)C)=O)C1=NC=CC=C1F | C16H16BrFN2O
reactant | TFAA | 183.6 mmole, 25.5 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | nitric acid | 55.1 mmoles, 2.46 mL | [N+](=O)(O)[O-] | HNO3
reactant | methanol | 50 mL | CO | CH4O
solvent | TFA | 100 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | O | H2O
solvent | TFA | 30 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-[4-Bromo-2-(3-fluoro-pyridin-2-yl)-6-nitro-phenyl]-2,2-dimethyl-propionamide | 6.1 grams, 82% yield | BrC1=CC(=C(C(=C1)[N+](=O)[O-])NC(C(C)(C)C)=O)C1=NC=CC=C1F | C16H15BrFN3O3
